US07067540B2
4-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-3-chlorobenzamide
4-[3-Bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-3-chlorobenzoic acid (0.5 g, 1.03 mmol) was taken up in THF (10 ml). 2-Chloro-4,6-dimethoxy-1,3,5-triazine (0.22 g, 1.24 mmol) and N-methyl morpholine (0.34 ml, 3.09 mmol) were added. The mixture stirred at room temperature for 1 hour. At this time, NH4OH (2.5 ml) was added and the reaction stirred at room temperature for one more hour. To the reaction mixture was added more THF (50 ml) and water (200 ml). The mixture was extracted with ethyl acetate. The ethyl acetate extraction was washed with saturated brine solution. The brine layer was extracted with ethyl acetate. The organic layers were combined, dried over Na2SO4, filtered and the solvent was removed in vacuo. The residue was taken up in ethyl acetate and the resulting precipitate was collected on a filter pad to yield a white powder (0.38 g, 76%) 1H NMR (300 MHz, CD3OD) δ 8.18 (d, J=1.81 Hz, 1H), 8.02 (dd, J=8.26, 2.01 Hz, 1H), 7.69 (app q, J=8.26 Hz, 1H), 7.55 (d, J=8.06 Hz, 1H), 7.12-7.06 (m, 2H), 6.71 (s, 1H), 5.40 (s, 2H), 2.07 (s, 3H). ES-MS m/z 482 (M+H). ES-HRMS m/z 482.9919 (M+H calcd for C20H15BrClF2N2O3 requires 482.9917).

reactant | 4-[3-Bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-3-chlorobenzoic acid | 1.03 mmol, 0.5 g | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C1=C(C=C(C(=O)O)C=C1)Cl)=O | C20H13BrClF2NO4
reactant | 2-Chloro-4,6-dimethoxy-1,3,5-triazine | 1.24 mmol, 0.22 g | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | N-methyl morpholine | 3.09 mmol, 0.34 ml | CN1CCOCC1 | C5H11NO
reactant | NH4OH | 2.5 ml | [NH4+].[OH-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 4-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-3-chlorobenzamide | 0.38 g, 76% | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C1=C(C=C(C(=O)N)C=C1)Cl)=O | C20H14BrClF2N2O3
